US08124606B2
Compound 98: (R)—N-methyl-4-(4-((6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide
In a vial equipped with a stir bar was charged (R)-4-(4-((6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzoic acid (50 mg, 0.114 mmol) was taken up in DMF (1.14 mL). To the mixture was added N-ethyl-N-isopropylpropan-2-amine (59 μl, 0.34 mmol), O-(7-Azabenzotriazole-1-yl)-N, N,N′N′-tetramethyluronium hexafluorophosphate (64.9 mg, 0.171 mmol), and methanamine hydrochloride (8.45 mg, 0.125 mmol). The reaction was stirred at room temperature overnight. The reaction was purified via HPLC (55-90% acetonitrile in water, ammonium bicarbonate buffer). The fractions were collected and lyophilized to yield 25.1 mg (49%) of the product as a white solid. 1H NMR (CHLOROFORM-d) δ: 8.37 (br. s., 1H), 7.58-7.89 (m, 3H), 7.15 (br. s., 1H), 6.87 (d, J=8.8 Hz, 2H), 6.07 (d, J=4.5 Hz, 1H), 5.06 (dt, J=13.6, 2.5 Hz, 1H), 4.42 (dd, J=10.1, 3.8 Hz, 1H), 3.55 (br. s., 2H), 3.36 (br. s., 4H), 3.08-3.24 (m, 1H), 2.56-3.08 (m, 8H), 2.40 (dd, J=13.5, 1.1 Hz, 1H), 1.74 (br. s., 2H). [M+H] calc'd for C23H28N6O2S, 453. found, 453.

reactant | (R)-4-(4-((6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzoic acid | 0.114 mmol, 50 mg | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)CN3CCN(CC3)C3=CC=C(C(=O)O)C=C3)CCSC2 | C22H25N5O3S
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.34 mmol, 59 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methanamine hydrochloride | 0.125 mmol, 8.45 mg | Cl.CN
solvent | DMF | 1.14 mL | CN(C)C=O | C3H7NO
product | (R)—N-methyl-4-(4-((6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide | 25.1 mg, 49% | CNC(C1=CC=C(C=C1)N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCSC3)=O)=O | C23H28N6O2S
